US06949579B2
10 cm3 of 4N hydrochloric dioxane are added to 240 mg of N-(6-chloro-1-[(1,1-dimethylethoxy)carbonyl]-1H-indazol-3-yl)-3-butenamide described previously. The mixture is stirred at about 19° C. for 17 hours. The crystalline product is filtered off on a sinter funnel, rinsed with 2×5 cm3 of ethyl acetate and with 2×5 cm3 of diethyl ether and then dried under reduced pressure (90 Pa; 40° C.). 125 mg of N-(6-chloro-1H-indazol-3-yl)-3-butenamide, in the form of the hydrochloride and melting at 150° C., are thus obtained.

reactant | N-(6-chloro-1-[(1,1-dimethylethoxy)carbonyl]-1H-indazol-3-yl)-3-butenamide | 240 mg | ClC1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)NC(CC=C)=O | C16H18ClN3O3
solvent | dioxane | 4N, 10 cm3 | O1CCOCC1 | C4H8O2
product | N-(6-chloro-1H-indazol-3-yl)-3-butenamide | 125 mg | ClC1=CC=C2C(=NNC2=C1)NC(CC=C)=O | C11H10ClN3O
